US08865704B2
trans-4-(1-Methyl-2,5-dioxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepin-4-ylmethyl)-cyclohexanecarboxylic acid
LiOH (0.77 mmol, 0.02 g) was added to a solution of trans-4-(1-Methyl-2,5-dioxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepin-4-ylmethyl)-cyclohexane carboxylic acid methyl ester (0.64 mmol, 0.22 g) in 1:1 dioxane/water (16 mL) at 0° C. After 1 h at 0° C. the ice bath was removed and the mixture was allowed to reach room temperature. The reaction mixture was washed with DCM (1×20 mL). To the aqueous layer HCl 2N was added until acid pH, then extract with DCM (3×15 mL). The organic layer was washed with brine dried over Na2SO4 anhydrous and the solvent was removed under reduced pressure to obtain the titled compound (0.18 g, yield 85%).

reactant | LiOH | 0.77 mmol, 0.02 g | [Li+].[OH-]
reactant | trans-4-(1-Methyl-2,5-dioxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepin-4-ylmethyl)-cyclohexane carboxylic acid methyl ester | 0.64 mmol, 0.22 g | COC(=O)[C@@H]1CC[C@H](CC1)CN1CC(N(C2=C(C1=O)C=CC=C2)C)=O | C19H24N2O4
solvent | dioxane water | 16 mL | O1CCOCC1.O
product | trans-4-(1-Methyl-2,5-dioxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepin-4-ylmethyl)-cyclohexanecarboxylic acid | 0.18 g, yield 85% | CN1C(CN(C(C2=C1C=CC=C2)=O)C[C@@H]2CC[C@H](CC2)C(=O)O)=O | C18H22N2O4
